US07645898B2
Thionyl chloride (46.02 g, 0.39 mol) was added dropwise to a cooled solution (less than 4° C.) of R-131 (51.13 g, 0.28 mol) in 300 mL of THF under an argon atmosphere. The resulting mixture was stirred for 3 h under the same condition. To this was added Et3N (39.14 g, 0.39 mol) and stirred for 20 min under the same condition. After 20 min, 5-amino-2-cyanobenzotrifluoride (40.0 g, 0.21 mol), 400 mL of THF were added and then the mixture was allowed to stir overnight at room temperature. The solvent was removed under reduced pressure to give a solid which was treated with 300 mL of H2O, extracted with EtOAc (2×400 mL). The combined organic extracts were washed with saturated NaHCO3 solution (2×300 mL) and brine (300 mL). The organic layer was dried over MgSO4 and concentrated under reduced pressure to give a solid which was purified from column chromatography using CH2Cl2/EtOAc (80:20) to give a solid. This solid was recrystallized from CH2Cl2/hexane to give 55.8 g (73.9%) of (2R)-3-Bromo-N-[4-cyano-3-(trifluoromethyl)phenyl]-2-hydroxy-2-methylpropanamide as a light-yellow solid.

reactant | Thionyl chloride | 0.39 mol, 46.02 g | S(=O)(Cl)Cl | Cl2OS
reactant | (2R)-3-Bromo-2-hydroxy-2-methylpropanoic acid | 0.28 mol, 51.13 g | BrC[C@](C(=O)O)(C)O | C4H7BrO3
reactant | Et3N | 0.39 mol, 39.14 g | CCN(CC)CC | C6H15N
reactant | 5-amino-2-cyanobenzotrifluoride | 0.21 mol, 40.0 g | NC=1C=CC(=C(C1)C(F)(F)F)C#N | C8H5F3N2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | H2O | 300 mL | O | H2O
product | (2R)-3-Bromo-N-[4-cyano-3-(trifluoromethyl)phenyl]-2-hydroxy-2-methylpropanamide | 55.8 g, 73.9% | BrC[C@](C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C12H10BrF3N2O2
